US07737152B2
2-Chloro-6-(2-phenyl-phenyl-oxy)-pyrazine, CJS 492(A)
Using Method DD (reaction time: 20 hours) with 2,6-dichloropyrazine (200 mg, 1.34 mmol) and 2-phenyl-phenol (268 mg, 1.49 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:2), the title compound was obtained (238 mg). Yield: 65%. 1H NMR (250 MHz, DMSO-d6) δ 7.31-7.61 (m, 9H, Harom), 8.43 (s, 1H, HPz 5), 8.46 (s, 1H, HPz 3). m/z: 283.1 [(M+H)+, calcd for C16H11ClN2O 282.1].

reactant | 2,6-dichloropyrazine | 1.34 mmol, 200 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-phenyl-phenol | 1.49 mmol, 268 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(2-phenyl-phenyl-oxy)-pyrazine | Yield: 65% | ClC1=NC(=CN=C1)OC1=C(C=CC=C1)C1=CC=CC=C1 | C16H11ClN2O
